### PR TITLE
[Merged by Bors] - feat: define Bernoulli distribution

### PR DESCRIPTION
**Pull request by EtienneC30**
Define the Bernoulli distribution over an arbitrary measurable space as
`Ber(x, y, p) := toNNReal p • dirac x + toNNReal (σ p) • dirac y`.
Deprecate `PMF.binomial`.

Co-authored-by: @DavidLedvinka

---

- [x] depends on: #37762

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Distributions/Bernoulli.lean [hunk 1]
```diff
@@ -0,0 +1,187 @@
...
+  simp_all [bernoulliMeasure_apply]
+
+@[simp]
+lemma bernoulliMeasure_apply_of_notMem_of_notMem (p : I) {s : Set X}
+    (hs : MeasurableSet s) (hx : x ∉ s) (hy : y ∉ s) :
+    Ber(x, y, p) s = 0 := by
+  classical
+  simp_all [bernoulliMeasure_apply]
+
+lemma bernoulliMeasure_real_apply (p : I) {s : Set X}
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Bernoulli.lean:75]: Could you change the order to have the `_real_apply_` variants each right after the corresponding `_apply_` lemmas?

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+

**Comment by EtienneC30** [comment]
Thanks!
bors merge
